US05852017
e) Preparation of 1-cyclohexyl-6-trifluoromethyl-7-amino-2,3(1H,4H)-quinoxalinedione
8 g (22.4 mmol) of 1-cyclohexyl-6-trifluoromethyl-7-nitro-2,3(1H,4H)-quinoxalinedione dissolved in 200 ml of tetrahydrofuran were hydrogenated under a pressure of about 1 bar of hydrogen in the presence of 1 g of palladium/active carbon (10% by weight Pd) at room temperature. The reaction mixture was filtered. Conventional workup of the filtrate gave a 100% yield of the abovementioned compound.

reactant | 1-cyclohexyl-6-trifluoromethyl-7-nitro-2,3(1H,4H)-quinoxalinedione | 22.4 mmol, 8 g | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])C(F)(F)F)=O)=O | C15H14F3N3O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium | 1 g | [Pd] | Pd
product | 1-cyclohexyl-6-trifluoromethyl-7-amino-2,3(1H,4H)-quinoxalinedione | 100% yield | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)N)C(F)(F)F)=O)=O | C15H16F3N3O2
